US04434182
In a manner similar to Example 2, the reaction of 0.75 g (0.0034 mole) of (E)-(4-t-butylphenyl)(cyclopropyl)methanone oxime with 0.2 g (0.008 mole) of sodium hydride and 0.74 g (0.0034 mole) of 3-chloromethyl-2-methyl[1,1'-biphenyl] in 25 ml of a 20% solution of N,N-dimethylformamide in toluene produced (E)-(4-t-butylphenyl)(cyclopropyl)methanone O-[(2-methyl[1,1'-biphenyl]-3-yl)methyl]oxime as an oil.

reactant | (E)-(4-t-butylphenyl)(cyclopropyl)methanone oxime | 0.0034 mole, 0.75 g | C(C)(C)(C)C1=CC=C(C=C1)/C(=N/O)/C1CC1 | C14H19NO
reactant | sodium hydride | 0.008 mole, 0.2 g | [H-].[Na+]
reactant | 3-chloromethyl-2-methyl[1,1'-biphenyl] | 0.0034 mole, 0.74 g | ClCC=1C(=C(C=CC1)C1=CC=CC=C1)C | C14H13Cl
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-(4-t-butylphenyl)(cyclopropyl)methanone O-[(2-methyl[1,1'-biphenyl]-3-yl)methyl]oxime | CC1=C(C=CC=C1CO\N=C(/C1CC1)\C1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=C1 | C28H31NO
